Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([c:2]1[c:3]([NH:4][C:5](=[O:6])[c:7]2[cH:8][cH:9][c:10]([Cl:11])[s:12]2)[cH:13][n:14][cH:15][cH:16]1)=[O:17].[CH3:18][C:19]([CH3:20])([CH3:21])[Si:22]([CH3:23])([CH3:24])[O:25][CH2:26][CH2:27][NH:28][c:29]1[cH:35][cH:34][c:32]([NH2:33])[cH:31][cH:30]1>>[C:1]([c:2]1[c:3]([NH:4][C:5](=[O:6])[c:7]2[cH:8][cH:9][c:10]([Cl:11])[s:12]2)[cH:13][n:14][cH:15][cH:16]1)(=[O:17])[NH:33][c:32]1[cH:31][cH:30][c:29]([NH:28][CH2:27][CH2:26][O:25][Si:22]([C:19]([CH3:18])([CH3:20])[CH3:21])([CH3:23])[CH3:24])[cH:35][cH:34]1,[OH:101][C:1]([c:2]1[c:3]([NH:4][C:5](=[O:6])[c:7]2[cH:8][cH:9][c:10]([Cl:11])[s:12]2)[cH:13][n:14][cH:15][cH:16]1)=[O:17].[CH3:18][C:19]([CH3:20])([CH3:21])[Si:22]([CH3:23])([CH3:24])[O:25][CH2:26][CH2:27][NH:28][c:29]1[cH:30][cH:31][c:32]([NH2:33])[cH:34][cH:35]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[c:3]([NH:4][C:5](=[O:6])[c:7]2[cH:8][cH:9][c:10]([Cl:11])[s:12]2)[cH:13][n:14][cH:15][cH:16]1)(=[O:17])[NH:33][c:32]1[cH:31][cH:30][c:29]([NH:28][CH2:27][CH2:26][O:25][Si:22]([C:19]([CH3:18])([CH3:20])[CH3:21])([CH3:23])[CH3:24])[cH:35][cH:34]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (33, 1), ([1, 17], 17), (303, 33.1), ([33.1, 33], 33), (17, [17, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[N:10]#[C:11][c:12]1[cH:13][cH:14][c:15]([N:16]=[C:17]=[O:18])[cH:19][cH:20]1.[N:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][c:7]([NH2:8])[cH:9]1>>[N:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][c:7]([NH:8][C:17]([NH:16][c:15]2[cH:14][cH:13][c:12]([C:11]#[N:10])[cH:20][cH:19]2)=[O:18])[cH:9]1,[N:10]#[C:11][c:12]1[cH:13][cH:14][c:15]([N:16]=[C:17]=[O:18])[cH:19][cH:20]1.[N:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][c:7]([NH2:8])[cH:9]1>>[N:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][c:7]([NH:8][C:17]([NH:16][c:15]2[cH:14][cH:13][c:12]([C:11]#[N:10])[cH:20][cH:19]2)=[O:18])[cH:9]1,nucleophilic_attack_to_iso(thio)cyanate,"[(8, 17), ([17, 18], 18), (18, 8.1), ([8.1, 8], 8), (18, [18, 17]), ([17, 16], 16), (16, 18.1), ([18.1, 18], 18)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:8][cH:7][c:5]([CH3:6])[cH:4][cH:3]1.[CH3:9][c:10]1[cH:11][cH:12][cH:13][cH:14][c:15]1-[c:16]1[n:17][c:18]2[c:19]3[cH:20][cH:21][cH:22][cH:23][c:24]3[cH:25][cH:26][n:27]2[c:28]1[NH2:29]>>[CH:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)=[N:29][c:28]1[c:16](-[c:15]2[c:10]([CH3:9])[cH:11][cH:12][cH:13][cH:14]2)[n:17][c:18]2[c:19]3[cH:20][cH:21][cH:22][cH:23][c:24]3[cH:25][cH:26][n:27]12,[CH3:9][c:10]1[cH:11][cH:12][cH:13][cH:14][c:15]1-[c:16]1[n:17][c:18]2[c:19]3[cH:20][cH:21][cH:22][cH:23][c:24]3[cH:25][cH:26][n:27]2[c:28]1[NH2:29].[O:101]=[CH:1][c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1.[H+:301]>>[CH:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)=[N:29][c:28]1[c:16](-[c:15]2[c:10]([CH3:9])[cH:11][cH:12][cH:13][cH:14]2)[n:17][c:18]2[c:19]3[cH:20][cH:21][cH:22][cH:23][c:24]3[cH:25][cH:26][n:27]12,imine_formation,"[(29, 1), ([1, 101], 301), (101, 29.1), ([29.1, 29], 29), (29, [29, 1]), ([1, 101], 101), ([29.1, 29], 29)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(=O)[NH:1][c:2]1[cH:3][cH:4][cH:5][c:6](-[n:7]2[c:8](=[O:9])[c:10]([CH3:11])[n:12][c:13]3[cH:14][cH:15][cH:16][n:17][c:18]23)[cH:19]1>>[NH2:1][c:2]1[cH:3][cH:4][cH:5][c:6](-[n:7]2[c:8](=[O:9])[c:10]([CH3:11])[n:12][c:13]3[cH:14][cH:15][cH:16][n:17][c:18]23)[cH:19]1,[CH3:202][C:101](=[O:201])[NH:1][c:2]1[cH:3][cH:4][cH:5][c:6](-[n:7]2[c:8](=[O:9])[c:10]([CH3:11])[n:12][c:13]3[cH:14][cH:15][cH:16][n:17][c:18]23)[cH:19]1.[OH2:301].[H+:302]>>[NH2:1][c:2]1[cH:3][cH:4][cH:5][c:6](-[n:7]2[c:8](=[O:9])[c:10]([CH3:11])[n:12][c:13]3[cH:14][cH:15][cH:16][n:17][c:18]23)[cH:19]1,carboxylic_acid_derivative_hydrolysis_or_formation,"[(201, 302), (301, 101), ([101, 201], 201), (1, 301.1), ([301.1, 301], 301), (201, [201, 101]), ([101, 1], 1), ([201.1, 201], 201)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
